US04511573
Treatment of 330 mg of 3-(3-methoxycarbonylprop-2-ynyl)-2-(3-pyridyl)indole in 10 ml of methanol with 3.0 ml of aqueous 1N lithium hydroxide at room temperature yields 3-(3-carboxyprop-2-ynyl)-2-(3-pyridyl) indole.

reactant | lithium hydroxide | 1N | [OH-].[Li+]
reactant | 3-(3-carboxyprop-2-ynyl)-2-(3-pyridyl) indole | C(=O)(O)C#CCC1=C(NC2=CC=CC=C12)C=1C=NC=CC1 | C17H12N2O2
reactant | methanol | 10 ml | CO | CH4O
product | 3-(3-methoxycarbonylprop-2-ynyl)-2-(3-pyridyl)indole | 330 mg | COC(=O)C#CCC1=C(NC2=CC=CC=C12)C=1C=NC=CC1 | C18H14N2O2
